US04931436
11-[[3-[2-(Diethylamino)ethyl]-1-piperidinyl]carbonyl]-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one
Prepared analogously to Example 4 from 11-(chlorocarbonyl)-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one and 3-[2-(diethylamino)ethyl]piperidine in a yield of 54% of theory. Colourless crystals, m.p. 110°-113° C. (acetonitrile).

reactant | 11-(chlorocarbonyl)-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | ClC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[2-(diethylamino)ethyl]piperidine | C(C)N(CCC1CNCCC1)CC | C11H24N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 11-[[3-[2-(Diethylamino)ethyl]-1-piperidinyl]carbonyl]-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | yield of 54% | C(C)N(CCC1CN(CCC1)C(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2)CC | C24H31N5O2
